US07390806B2
(3-Pyridyl)vinyl borinic acid (6s)
Isopropylmagnesium chloride (2.0 M in THF) (5.0 mL, 10 mmol) was added to a solution of 3-bromopyridine (1.60 g, 10.0 mmol) in THF (15 mL) under nitrogen atmosphere at room temperature and the mixture was stirred for 1 h. Vinylboronic acid dibutyl ester (3.4 mL) was added to the reaction dropwise and the mixture was stirred at room temperature for 18 h. Water was added and the pH was adjusted to 7 with 1 M hydrochloric acid. The mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried on anhydrous sodium sulfate. The solvent was removed under reduced pressure to give the title compound (1.04 g, 78%).

reactant | Isopropylmagnesium chloride | 10 mmol, 2.0 M, 5.0 mL | C(C)(C)[Mg]Cl
reactant | 3-bromopyridine | 10.0 mmol, 1.60 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | Vinylboronic acid dibutyl ester | 3.4 mL | C(CCC)OB(OCCCC)C=C | C10H21BO2
reactant | hydrochloric acid | 1 M | Cl | ClH
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | (3-Pyridyl)vinyl borinic acid | 1.04 g, 78% | N1=CC(=CC=C1)C=CBO | C7H8BNO
